US20010020034A1
3-(2,5-difluoro-4-methyl-benzyloxy)-5-[3-(4-hydroxy-5-piperidin-1-yl-pentyl)-ureido] -isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and 5-amino-1-piperidin-1-yl-pentan-2-ol by the procedure analogous to Example 6. HPLC ret. time: 3.3 minutes. 1H NMR (400 MHz, CD3OD) δ 7.18 (dd, 1H, J=6.0, 9.2 Hz), 7.05 (dd, 1H, J=6.0, 10 Hz), 5.47 (s, 2H), 3.80 (m, 1H), 3.23 (t, 2H, J=6.4 Hz), 2.7-2.4 (m, 7H), 2.25 (s, 3H), 1.8-1.4 (m, nH) ppm; MS (APCl, m/z): 512 [M+H]+.

reactant | [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C(=C1)F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | 5-amino-1-piperidin-1-yl-pentan-2-ol | NCCCC(CN1CCCCC1)O | C10H22N2O
product | 3-(2,5-difluoro-4-methyl-benzyloxy)-5-[3-(4-hydroxy-5-piperidin-1-yl-pentyl)-ureido] -isothiazole-4-carboxylic acid amide | FC1=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCC(CN2CCCCC2)O)C=C(C(=C1)C)F | C23H31F2N5O4S
